Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Anemia, Dyspnea, Lightheadedness 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ woman with a history of HTN, HL, 
remote thyroid CA s/p resection, presenting with anemia. 

Patient notes approximately 2 months of fatigue, exertional 
dyspnea, and occasional lightheadedness. The patient denies any 
black stools, BRBPR, change in caliber of stool, vaginal 
bleeding, hematuria. The patient denies any chest pain, 
abdominal pain. Does endorse some nausea. Notes nausea has been 
intermittent since taking Clinda for tooth implants in 
___. No HA or blurry vision. Endorses a cough but notes 
normal CXR yesterday.

Per PCP note that patient had a CBC checked ___ and Hct 25, lst 
prior Hct 38. MCV also was low. The patient had ___ in ___ 
which was normal. She was sent to the ED for transfusion. Notes 
she has reflux symptoms for which she takes Prilosec. Denies 
daily use of NSAIDS, but takes ibuprofen 400mg about 2x/week. 
Drinks nightly vodka, about a shot.

Patient denies any recent weight loss.

On arrival to the floor, patient reports mild nausea, no other 
complaints. Cough is stable for last 2 days.
 
Past Medical History:
- Hypothyroidism 
- Hypertension
- Hyperlipidemia
- Thyroid Cancer s/p resection (approx. ___ years ago)
- Anxiety
- Glaucoma
 
Social History:
___
Family History:
- AAA 
- Mother: ___ Cancer
- ___ Grandfather: ulcers
 
Physical ___:
=========================
ADMISSION PHYSICAL EXAM:
=========================
VS: T 98.2 | HR 71 | BP 152/76 | RR 20 | O2 100% RA 
GENERAL: NAD. Pleasant, interactive.
HEENT: No pallor. EOMI. MMM, good dentition.
NECK: Nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2. 
LUNG: CTAB, bronchial breath sounds.  
ABDOMEN: Nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: No edema. Moving all 4 extremities with purpose.  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact.  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 

=========================
DISCHARGE PHYSICIAL EXAM:
=========================
VS: T 98.7 | HR ___ | BP 110/55-138/76 | RR 16 | O2 97% RA 
GENERAL: NAD. Pleasant, interactive.
HEENT: No facial pallor. EOMI. MMM, good dentition.
NECK: Nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2. 
LUNG: CTAB. No obvious rhonchi or crackles  
ABDOMEN: Nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: No edema. Moving all 4 extremities with purpose.  
PULSES: 2+ DP pulses bilaterally 

 
Pertinent Results:
================
ADMISSION LABS:
================
___ 11:20AM BLOOD WBC-9.4# RBC-3.49* Hgb-6.7*# Hct-24.4*# 
MCV-70*# MCH-19.2*# MCHC-27.5*# RDW-21.9* RDWSD-53.1* Plt 
___
___ 11:20AM BLOOD Neuts-71.0 Lymphs-11.4* Monos-15.6* 
Eos-1.1 Baso-0.3 NRBC-0.4* Im ___ AbsNeut-6.68* 
AbsLymp-1.07* AbsMono-1.47* AbsEos-0.10 AbsBaso-0.03
___ 11:20AM BLOOD Glucose-107* UreaN-21* Creat-0.7 Na-137 
K-4.0 Cl-99 HCO3-27 AnGap-15

==========
KEY LABS:
==========
___ 05:48AM BLOOD calTIBC-515* Ferritn-8.0* TRF-396* 
Iron-21*

================
DISCHARGE LABS:
================
___ 05:48AM BLOOD WBC-6.2 RBC-4.23 Hgb-8.7* Hct-30.9* 
MCV-73* MCH-20.6* MCHC-28.2* RDW-22.7* RDWSD-57.8* Plt ___
___ 05:48AM BLOOD Glucose-102* UreaN-14 Creat-0.8 Na-137 
K-3.6 Cl-100 HCO3-26 AnGap-15
___ 05:48AM BLOOD Calcium-9.5 Phos-3.6 Mg-2.0 Iron-21*

============
KEY STUDIES:
============

___ ECG:  Clinical indication for EKG: R06.02 - Shortness of 
breath 
  
Normal sinus rhythm. Tracing is within normal limits. Compared 
to the 
previous tracing of ___ the findings are similar. 
  Intervals     Axes 
Rate PR QRS QT QTc (___)    P QRS T 
72 ___ 408/424   -26 -20 ___ female with a history of hypothyroidism, hypertension, 
hyperlipidemia presenting with progressive fatigue and dyspnea 
over the last two months found to be anemic to Hgb=6.7. This 
anemia was recognized by the patient's PCP who referred her to 
the ___ ED for further management. Patient denied melena, 
hematochezia, hematemesis, coffee-ground emesis, and weight 
loss.

==============
ACTIVE ISSUES:
==============

# Iron Deficiency Anemia, Guaiac-positive stool: Patient 
presenting with approximately 2 months of progressive dyspnea, 
fatigue, and lightheadedness and found to be anemic to Hgb=6.7 
in ED. Intermittent nausea without vomiting, mild vague 
epigastric pain over this time period. No change in bowel 
movements, no melena. No weight loss. Likely lower GI bleed, but 
nausea and epigastric pain with EtOH use could signal gastritis 
or PUD. Transfused 1u pRBCs in ED. Post-transfusion H/H with 
appropriate increase. Iron studies consistent with significant 
iron deficiency. Last colonoscopy in ___ with single polyp 
removed. Discharged on pantroprazole 40mg PO BID. Inpatient GI 
consulted and working on scheduling patient for outpatient 
colonoscopy, EGD, and possible capsule endoscopy.

# Recent pneumonia: Patient had CAP earlier in the month, 
treated with levofloxacin and then with inhalers for symptoms 
relief (which she had used intermittently). Had been feeling 
back to baseline, then cough started again 2 days prior to 
admission. X-ray on ___ reportedly normal. Further antibiotic 
treatment held.

================
CHRONIC ISSUES:
================

# Hypothyroidism: Continued levothyroxine.

# Hypertension: Held antihypertensives given concern for bleed, 
anemia. Restarted home HCTZ at discharge given hemodynamic 
stability.

# Anxiety: Continued Alprazolam.

# Depression: Continued fluoxetine.

# Glaucoma: Continued home meds.

# CODE: Full (confirmed)  

=====================
TRANSITIONAL ISSUES:
=====================
[ ] At discharge, ___ GI working on scheduling follow up for 
colonoscopy/endoscopy. Plan for GI to call patient with 
appointment. If an appointment is not scheduled by ___, patient 
should call ___ to schedule an appointment.
[ ] Discharged on pantoprazole 40mg BID. Patient should not 
continue to take OTC PPI while on this med. 
[ ] Patient should avoid NSAIDs.

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Timolol Maleate 0.5% 1 DROP BOTH EYES QPM 
2. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
3. Simvastatin 20 mg PO QPM 
4. Hydrochlorothiazide 12.5 mg PO DAILY 
5. ALPRAZolam 0.5 mg PO Q6H:PRN anxiety 
6. Levothyroxine Sodium 150 mcg PO DAILY 
7. FLUoxetine 30 mg PO DAILY 

 
Discharge Medications:
1. ALPRAZolam 0.5 mg PO Q6H:PRN anxiety 
2. FLUoxetine 30 mg PO DAILY 
3. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
4. Levothyroxine Sodium 150 mcg PO DAILY 
5. Simvastatin 20 mg PO QPM 
6. Timolol Maleate 0.5% 1 DROP BOTH EYES QPM 
This is the same as Betimol. 
7. Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0
8. Hydrochlorothiazide 12.5 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
- Anemia
- GI Bleeding

SECONDARY DIAGNOSES:
- Hypothyroidism
- Glaucoma
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure to care for you at ___.

You were admitted with shortness of breath, fatigue, and 
lightheadedness and were found to have anemia (low blood count). 


For this anemia, you were transfused one unit of red blood 
cells. Your blood counts looked better after this transfusion, 
though they are still lower than normal.

There was evidence of small amounts of blood in your stool, 
which suggests that you have a slow bleed somewhere in your GI 
tract. This needs to be evaluated with procedures to visualize 
the inside of your gut (colonoscopy, upper endoscopy, and 
possibly capsule endoscopy).

Bleeding is the GI tract is made worse by medicines called 
NSAIDs (such as ibuprofen, Advil, Motrin, naproxen, Alleve, and 
some others). You should NOT take any of these medicines until 
you have discussed it with your primary doctor and ___ source of 
GI bleeding has been found and fixed. If you have pain, 
acetaminophen (a.k.a. Tylenol) is a safer choices. Do not take 
more than 4,000 mg of acetaminophen in a 24 hour period.

Bleeding in the GI tract can be made worse by alcohol intake. It 
is recommended that you minimize your alcohol intake until the 
source of your GI bleeding is found and fixed. 

You are being discharged on an acid-reducing medicine called 
pantoprazole, which you will take twice a day until cleared by 
your primary doctor or gastroenterologist. While you are taking 
this medicine, there is no need to take Prilosec or any other 
proton pump inhibitor medication.

Please make sure you go to all of your scheduled follow-up 
appointments!

Thank you for letting us participate in your care,
Your ___ team
 
Followup Instructions:
___